US05021446
Under a nitrogen gas atmosphere, 3.0 g (0.032 mole) of 2-hydroxypyridine was added at 25° C. to 30 ml of a N,N-dimethylformamide solution containing 1.92 g (0.048 mole) of sodium hydroxide. Then, 5.1 g (0.032 mole) of 5-chloro-1,3-dimethyl-4-formylpyrazole in 20 ml of N,N-dimethylformamide was added to the mixture solution at 25° C. The reaction mixture was heated to 100° C. and stirred at 100° C. for 4 hours. The reaction mixture was then poured into 300 ml of ice water and extracted with two 100-ml portion of ethyl acetate. The organic layers were combined, washed once with 100 ml of saturated aqueous sodium chloride solution and dried over unhydrous magnesium sulfate, then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel to obtain 0.55 g of 1,3-dimethyl- 5-(2-pyridyloxy)-4-formylpyrazole.

reactant | 2-hydroxypyridine | 0.032 mole, 3.0 g | OC1=NC=CC=C1 | C5H5NO
reactant | sodium hydroxide | 0.048 mole, 1.92 g | [OH-].[Na+]
reactant | 5-chloro-1,3-dimethyl-4-formylpyrazole | 0.032 mole, 5.1 g | ClC1=C(C(=NN1C)C)C=O | C6H7ClN2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,3-dimethyl- 5-(2-pyridyloxy)-4-formylpyrazole | 0.55 g | CN1N=C(C(=C1OC1=NC=CC=C1)C=O)C | C11H11N3O2
